US04006176
Gamma-chloropropyltrichlorosilane (21.2 g., 0.1 mole) is dissolved in 200 ml. of dry ether and an ether slurry of (33.6g, 0.3 mole) sodium trimethylsilanoate, (CH3)3SiONa, is added in small portions. The mixture is allowed to stand for 12 hours and is then refluxed for an additional 3 hours. Filtration of the sodium chloride and removal of the ether from the filtrate leaves gamma-chloropropyltris-trimethylsiloxysilane.

reactant | Gamma-chloropropyltrichlorosilane | 0.1 mole, 21.2 g | ClCCC[Si](Cl)(Cl)Cl | C3H6Cl4Si
reactant | (CH3)3SiONa | [Si](C)(C)(C)O[Na]
solvent | ether | CCOCC | C4H10O
product | gamma-chloropropyltris-trimethylsiloxysilane | ClCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C12H33ClO3Si4
